US05614544
4-Chloromethyl-5-methyl-2-phenyloxazole and triphenylphosphine were reacted in the same manner as in Reference Example 7 to yield (5-methyl-2-phenyl-4-oxazolylmethyl)triphenylphosphonium chloride. Melting point 277°-278° C.

reactant | 4-Chloromethyl-5-methyl-2-phenyloxazole | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | (5-methyl-2-phenyl-4-oxazolylmethyl)triphenylphosphonium chloride | [Cl-].CC1=C(N=C(O1)C1=CC=CC=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C29H25NOP.ClH/c1-23-28(30-29(31-23)24-14-6-2-7-15-24)22-32(25-16-8-3-9-17-25,26-18-10-4-11-19-26)27-20-12-5-13-21-27;/h2-21H,22H2,1H3;1H/q+1;/p-1
